US07378417B2
7-Difluoromethyl-5-(4-trifluoromethoxy-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid(3-methanesulfonyl-phenyl)-amide
The title compound was prepared from 7-difluoromethyl-5-(4-trifluoromethoxy-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (example C.20) and 3-methanesulfonyl-phenylamine [commercially available as hydrochloride] according to general procedure II. Yellow solid. MS (ISP) 527.2 [(M+H)+]; mp 223° C.

reactant | 7-difluoromethyl-5-(4-trifluoromethoxy-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | FC(C1=CC(=NC=2N1N=CC2C(=O)O)C2=CC=C(C=C2)OC(F)(F)F)F | C15H8F5N3O3
reactant | 3-methanesulfonyl-phenylamine | CS(=O)(=O)C=1C=C(C=CC1)N | C7H9NO2S
reactant | hydrochloride | Cl | ClH
product | 7-Difluoromethyl-5-(4-trifluoromethoxy-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid(3-methanesulfonyl-phenyl)-amide | CS(=O)(=O)C=1C=C(C=CC1)NC(=O)C=1C=NN2C1N=C(C=C2C(F)F)C2=CC=C(C=C2)OC(F)(F)F | C22H15F5N4O4S
